US04207320
10-Fluoro-3-methylimidazo[1,2-a:3,4-a']diquinolin-15-ium Iodide
A mixture of 24.2 g. of 6-fluoroquinaldine, 86 g. of 6-methylquinoline, 100 ml. of chlorobenzene and 76 g. of iodine is stirred at 20°-25° C. until solution is obtained, then heated at 95°-100° C. for 3 days. The mixture is cooled and the precipitate of 10-fluoro-3-methylimidazo[1,2-a:3,4-a']diquinolin-15-ium iodide is collected by filtration, washed with chlorobenzene, then with methanol and dried; m.p. 360° C. after crystallization from dimethylformamide.

reactant | 6-fluoroquinaldine | FC=1C=C2C=CC(=NC2=CC1)C | C10H8FN
reactant | 6-methylquinoline | CC=1C=C2C=CC=NC2=CC1 | C10H9N
reactant | iodine | II | I2
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 10-Fluoro-3-methylimidazo[1,2-a:3,4-a']diquinolin-15-ium Iodide | [I-].FC1=CC=2C=CC=3N(C2C=C1)C1=[N+](C=2C=CC(=CC2C=C1)C)C3 | InChI=1S/C20H14FN2.HI/c1-13-2-7-18-14(10-13)4-9-20-22(18)12-17-6-3-15-11-16(21)5-8-19(15)23(17)20;/h2-12H,1H3;1H/q+1;/p-1
